US04785016
N-[(4-Methoxyphenyl)methyl]ethenesulphonamide
A cold solution of 4-methoxybenzylamine (2 g) and triethylamine (2.8 ml) in dry dichloromethane (20 ml) at -78° was transferred under nitrogen to a solution of 2-chloroethanesulphonyl chloride (4.9 g) in dry dichloromethane (20 ml) at -78°. The mixture was stirred for 4 h whilst warming to room temperature and then refrigerated overnight. Water (ca 100 ml) was added and the organic layer separated. This was washed with hydrochloric acid (2N, 50 ml), water (50 ml) and brine (50 ml), dried (MgSO4) and evaporated under reduced pressure. The residue was purified by chromatography (dichloromethane) to give the title compound as a powder (2 g) m.p. 68°-69°.

reactant | 4-methoxybenzylamine | 2 g | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloroethanesulphonyl chloride | 4.9 g | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
reactant | Water | ca 100 ml | O | H2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-[(4-Methoxyphenyl)methyl]ethenesulphonamide | 2 g | COC1=CC=C(C=C1)CNS(=O)(=O)C=C | C10H13NO3S
